US06982348B2
To a solution of 2-bromo-p-cresol (10 ml, 82.7 mmol) in N,N-dimethylformamide (200 ml) were added potassium carbonate (17.2 g, 124 mmol) and methallyl chloride (9.8 ml, 99.2 mmol), and the mixture was stirred at 100° C. overnight. The mixture was diluted with ethyl acetate, and washed with water and saturated brine. The mixture was dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1) to give 2-bromo-4-methyl-1-[(2-methyl-2-propenyl)oxy]benzene (19.67 g, 99%) as a colorless transparent oil.

reactant | 2-bromo-p-cresol | 82.7 mmol, 10 ml | BrC1=CC(=CC=C1O)C | C7H7BrO
reactant | potassium carbonate | 124 mmol, 17.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methallyl chloride | 99.2 mmol, 9.8 ml | C(C(C)=C)Cl | C4H7Cl
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-4-methyl-1-[(2-methyl-2-propenyl)oxy]benzene | 19.67 g, 99% | BrC1=C(C=CC(=C1)C)OCC(=C)C | C11H13BrO
